US07723333B2
4-{[2-(4-Hydroxy-3,5-dimethoxyphenyl)ethyl]amino}-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 4-(2-aminoethyl)-2,6-dimethoxyphenol in a similar manner as described for Example 118. 1H NMR (THF-d8, 500 MHz): δ 1.53 (d, 6H), 2.45 (t, 2H), 3.11 (q, 2H), 3.73 (s, 6H), 4.31-4.39 (m, 1H), 6.03 (s, 2H), 6.47 (t, 1H), 7.22 (s, 1H), 7.46-7.50 (m, 3H), 7.55-7.57 (m, 2H); 13C NMR (125 MHz, THF-d8): δ 19.57, 35.92, 45.47, 46.98, 55.93, 106.13, 106.56, 126.64, 127.87, 128.56, 129.34, 131.86, 135.49, 135.64, 148.12, 158.61; Mass Spectrum: M+H+ 447.

reactant | 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C12H12ClNO3S
reactant | 4-(2-aminoethyl)-2,6-dimethoxyphenol | NCCC1=CC(=C(C(=C1)OC)O)OC | C10H15NO3
product | 4-{[2-(4-Hydroxy-3,5-dimethoxyphenyl)ethyl]amino}-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | OC1=C(C=C(C=C1OC)CCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O)OC | C22H26N2O6S
